* C:\Users\David\OneDrive - The University of Nottingham\Modules\EEEE4008\Simulation\SPICE Demo\DoublePulseTest.asc
V1 Vdrive 0 PWL(0 0 1u 0 1.001u 5 5.6u 5 5.6001u 0 7u 0 7.001u 5 8u 5 8.001u 0)
M1 Vd Vg Vs Vs 2N7002
D1 Vd Vdc D
L1 Vd Vdc 220µ
L2 Vs 0 {Ls}
R1 Vg Vdrive {Rg}
Vsupply Vdc 0 {Vdc}
.model D D
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.mos
.param Rg=10 Ls=10n Vdc=24
.tran 10u
.backanno
.end
